US04783459
2-Anilino-4,6-dimethylpyrimidine (10 g) was added to formic-acetic anhydride (prepared from formic acid (5 ml) and acetic anydride (12 ml)) and the mixture heated gently to 40° to give a clear solution. After standing for 4 days, a crystalline solid separated and toluene was added to give a clear solution again. The mixture was evaporated to dryness, more toluene added and reevaporated. The product was recrystallised from ethyl acetate/light petroleum to give N-(4,6-dimethylpyrimidin-2-yl)-formanilide, m.p. 134°-5°. (Compound 3).

reactant | 2-Anilino-4,6-dimethylpyrimidine | 10 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C | C12H13N3
reactant | formic-acetic anhydride | 5 ml | C(C)(=O)OC=O | C3H4O3
product | N-(4,6-dimethylpyrimidin-2-yl)-formanilide | CC1=NC(=NC(=C1)C)N(C1=CC=CC=C1)C=O | C13H13N3O
